US05356558
Sodium nitrite (51.2 g) was dissolved in sulfuric acid (390 ml), and then acetic acid (454 ml) was added thereto at 10° C. or lower. The mixed solution was kept at 20° to 25° C., and 2-fluoro-4-iodoaniline (124 g) was added for 1 hour, followed by stirring for 2 hours. The reaction solution was added dropwise to a mixed solution of copper bromide (130 g) with 48% hydrobromic acid (390 ml), and stirred overnight. Then, water (1000 ml) was added to the solution, and the resulting solution was extracted with chloroform, followed by washing with water 3 times. After distilling off chloroform, the resultant was distilled under reduced pressure (b.p. 120° to 125° C./13 mmHg), and then recrystallized from methanol to give 1-bromo-2-fluoro-4-iodobenzene (114 g).

reactant | Sodium nitrite | 51.2 g | N(=O)[O-].[Na+]
reactant | acetic acid | 454 ml | C(C)(=O)O | C2H4O2
reactant | 2-fluoro-4-iodoaniline | 124 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | hydrobromic acid | 390 ml | Br | BrH
solvent | sulfuric acid | 390 ml | S(O)(O)(=O)=O | H2O4S
catalyst | copper bromide | 130 g | [Cu](Br)Br
solvent | water | 1000 ml | O | H2O
product | 1-bromo-2-fluoro-4-iodobenzene | 114 g | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
